US05677305
First, a mixture containing 500 mg of 4-dimethylsulfamoyl-5-(4-oxo-4H-pyridin-1-yl)-1,2-phenylenediamine, 438 mg of oxalic acid, and 10 ml of 2N hydrochloric acid was refluxed by heating in an oil bath for 3 hours. The mixture was cooled and made basic with aqueous ammonia. Precipitated crystals were filtered. Then, 534 mg of the crude crystals thus obtained were further recrystallized with dimethylformaldehyde and water to give 201 mg of 6-dimethylsulfamoyl-7-(4-oxo-4H-pyridin-1-yl)-1,4-dihydroquinoxaline-2,3-dione.

reactant | 4-dimethylsulfamoyl-5-(4-oxo-4H-pyridin-1-yl)-1,2-phenylenediamine | 500 mg | CN(S(=O)(=O)C1=CC(=C(C=C1N1C=CC(C=C1)=O)N)N)C | C13H16N4O3S
reactant | oxalic acid | 438 mg | C(C(=O)O)(=O)O | C2H2O4
reactant | ammonia | N | H3N
solvent | hydrochloric acid | 2N, 10 ml | Cl | ClH
product | 6-dimethylsulfamoyl-7-(4-oxo-4H-pyridin-1-yl)-1,4-dihydroquinoxaline-2,3-dione | 201 mg | CN(S(=O)(=O)C=1C=C2NC(C(NC2=CC1N1C=CC(C=C1)=O)=O)=O)C | C15H14N4O5S
